US08685970B2
A mixture of 2-(pyridin-3-yl)quinazoline-8-carboxylic acid (250 g, 1.0 mmol), thiazole-2-amine (94 mg, 1.0 mmol), HATU (760 mg, 2.0 mmol) and DIPEA (260 mg, 2.0 mmol) in DMF (15 mL) was stirred at 50° C. for 12 hours. Water (20 mL) was added and the precipitate was collected by filtration, washed with water (3×10 mL) and methanol (3×5 mL) to obtain 2-(pyridin-3-yl)-N-(thiazol-2-yl)quinazoline-8-carboxamide (150 mg, 46% yield). MS (ESI) calcd for C17H11N5OS (m/z): 333.07. found: 334 [M+1].

reactant | 2-(pyridin-3-yl)quinazoline-8-carboxylic acid | 1.0 mmol, 250 g | N1=CC(=CC=C1)C1=NC2=C(C=CC=C2C=N1)C(=O)O | C14H9N3O2
reactant | thiazole-2-amine | 1.0 mmol, 94 mg | S1C(=NC=C1)N | C3H4N2S
reactant | HATU | 2.0 mmol, 760 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 2.0 mmol, 260 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | Water | 20 mL | O | H2O
product | 2-(pyridin-3-yl)-N-(thiazol-2-yl)quinazoline-8-carboxamide | 150 mg, 46% yield | N1=CC(=CC=C1)C1=NC2=C(C=CC=C2C=N1)C(=O)NC=1SC=CN1 | C17H11N5OS
